US07265104B2
To a solution of 2-chloro-5-aminopyridine (500 mg, 3.88 mmol) and acetone (250 μL, 4.27 mmol) in dichloroethane (13 mL) was added NaBH(OAc)3 (989 mg, 4.66 mmol) and AcOH (330 μL, 5.82 mmol). The reaction was stirred for 24 hours and was diluted with 1N NaOH. The aqueous solution was washed with CH2Cl2 (3×). The combined organic solutions were dried (Na2SO4), filtered and concentrated. Purification by medium pressure chromatography eluting with a solvent gradient (2% MeOH in CH2Cl2 to 5% MeOH in CH2Cl2) provided 505.2 mg of (6-chloro-pyridin-3-yl)-isopropyl-amine. 1H NMR (CD3OD) δ 7.64 (d, 1H), 7.10 (d, 1H), 6.99 (dd, 1H), 3.55 (m, 1H), 1.17 (d, 6H).

reactant | 2-chloro-5-aminopyridine | 3.88 mmol, 500 mg | ClC1=NC=C(C=C1)N | C5H5ClN2
reactant | acetone | 4.27 mmol, 250 μL | CC(=O)C | C3H6O
reactant | NaBH(OAc)3 | 4.66 mmol, 989 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 5.82 mmol, 330 μL | CC(=O)O | C2H4O2
solvent | dichloroethane | 13 mL | ClC(C)Cl | C2H4Cl2
solvent | NaOH | 1N | [OH-].[Na+]
product | (6-chloro-pyridin-3-yl)-isopropyl-amine | 505.2 mg | ClC1=CC=C(C=N1)NC(C)C | C8H11ClN2
